US06465455B1
N-[2-chloro-5-(2-nitrobenzamido)phenyl]-3,4-dimethoxybenzamide
3,4-Dimethoxybenzoyl chloride (1.55 g) was added to a stirred mixture of N-(3-amino-4-chlorophenyl)-2-nitrobenzamide (1.5 g) and pyridine (20 ml) and the mixture was stirred and heated to 80° C. for 16 hours. The mixture was cooled to ambient temperature and evaporated. The residue was partitioned between methylene chloride and 1N aqueous hydrochloric acid solution. The organic phase was washed with a saturated aqueous sodium bicarbonate solution and evaporated. The residue was triturated under ethyl acetate. The resultant solid was isolated, washed with a saturated aqueous sodium bicarbonate solution and dried under vacuum at 40° C. There was thus obtained the title compound (1.63 g);

reactant | 3,4-Dimethoxybenzoyl chloride | 1.55 g | COC=1C=C(C(=O)Cl)C=CC1OC | C9H9ClO3
reactant | N-(3-amino-4-chlorophenyl)-2-nitrobenzamide | 1.5 g | NC=1C=C(C=CC1Cl)NC(C1=C(C=CC=C1)[N+](=O)[O-])=O | C13H10ClN3O3
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | N-[2-chloro-5-(2-nitrobenzamido)phenyl]-3,4-dimethoxybenzamide | 1.63 g | ClC1=C(C=C(C=C1)NC(C1=C(C=CC=C1)[N+](=O)[O-])=O)NC(C1=CC(=C(C=C1)OC)OC)=O | C22H18ClN3O6
